US04966835
Into a 300 ml reaction vessel equipped with a distillation apparatus, 50 g of 2-ethylhexylamine, 29 g of methyl carbamate and 100 ml of toluene were placed, and to the mixture was added 0.1 g of dibutyl tin oxide as a catalyst and heated with stirring. Methanol formed during the reaction was removed, when the reflux temperature was raised to 110° C., i.e.,the boiling point of toluene, the distillation apparatus was taken off and instead a reflux condenser was attached and the mixture was refluxed by heating for 30 minutes with stirring, then allowed to cool. The toluene was distilled off under reduced pressure, and the residue was washed with n-hexane and collected by filtration to obtain 61 g of N-(2-ethylhexyl)urea.

reactant | 2-ethylhexylamine | 50 g | C(C)C(CN)CCCC | C8H19N
reactant | methyl carbamate | 29 g | C(N)(OC)=O | C2H5NO2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dibutyl tin oxide | 0.1 g | C(CCC)[Sn](CCCC)=O
solvent | Methanol | CO | CH4O
product | N-(2-ethylhexyl)urea | 61 g | C(C)C(CNC(=O)N)CCCC | C9H20N2O
